US06417009B1
Phytanyl bromide (12.34 g), potassium phthalimide (6.95 g) and DMF (50 ml) were heated at 120-130° C. for 4 hours. Most of the DMF was removed under reduced pressure and the crude product was dissolved in dichloromethane (100 ml), washed with water (2×50 ml), dried (MgSO4). The light yellow crude product was chromatographed on flash silica (dichloromethane/hexane as eluant) to yield pure N-phytanyl phthalimide in 11.89 g (80.9%) 1H-n.m.r. (CDCl3) δ0.82-1.8 (m, 39H), 3.73 (t, 2H, CH2N), 7.73 (m, 2H, ArH), 7.88 (m, 2H, ArH); m/z 431 (M+).

reactant | Phytanyl bromide | 12.34 g | C(CC(C)CCCC(C)CCCC(C)CCCC(C)C)Br | C20H41Br
reactant | potassium phthalimide | 6.95 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-phytanyl phthalimide | C(CC(C)CCCC(C)CCCC(C)CCCC(C)C)N1C(C=2C(C1=O)=CC=CC2)=O | C28H45NO2
